US09126950B2
Synthesis of tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-nitrophenyl)carbamate.
In a 50 mL 3-neck RBF, to a solution of 2-chloro-5-fluoro-N-(3-nitrophenyl)pyrimidin-4-amine (1.0 g) in DMF (10 mL), were added Boc anhydride (1.22 g) and DMAP (0.670 g). The reaction mixture was stirred at room temperature for 1.5 h. The reaction was monitored by TLC using hexane:ethyl acetate (6:4) as mobile phase. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate (3×50 ml). The ethyl acetate layer was washed with brine solution, dried over sodium sulfate and concentrated under reduced pressure at 40° C. Purification was purified by column chromatography. Product was eluted with 5% ethyl acetate in hexane to give, after concentration, 0.78 g of tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-nitrophenyl)carbamate. 1H NMR: DMSO-d6 (400 MHz): 1.451 (s, 9H), 7.710-7.750 (t, 1H, J=8), 7.823 (d, 1H, J=8.0), 8.212 (d, 1H, J=8), 8.259 (s, 1H), 9.00 (s, 1H).

reactant | 2-chloro-5-fluoro-N-(3-nitrophenyl)pyrimidin-4-amine | 1.0 g | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)[N+](=O)[O-])F | C10H6ClFN4O2
reactant | Boc anhydride | 1.22 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.670 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl (2-chloro-5-fluoropyrimidin-4-yl)(3-nitrophenyl)carbamate | ClC1=NC=C(C(=N1)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)[N+](=O)[O-])F | C15H14ClFN4O4
